US04871877
A mixture of 100 mg (1.7 mmol) of potassium fluoride, 132 mg (0.60 mmol) of 3,5-di-tert-butyl-1,2-benzoquinone, and 2 mL of acetonitrile was treated successively with 40 μL (0.70 mmol) of glacal acetic acid and 129 mg (0.70 mmol) of triethyltrifloromethylsilane, and stirred vigorously at room temperature for 15 minutes. The mixture was filtered and the filter cake was washed with dichloromethane. Concentration of the combined filtrates afforded a residue which was purified by PTLC (one 2 mm silica gel plate eluted with 20% dichloromethane--80% petroleum ether) to give 27 mg (16% yield) of 4,6-di-tert-butyl-2-hydroxy-2-trifluoromethyl-3,5-cyclohexadiene-one.

reactant | potassium fluoride | 1.7 mmol, 100 mg | [F-].[K+]
reactant | 3,5-di-tert-butyl-1,2-benzoquinone | 0.60 mmol, 132 mg | C(C)(C)(C)C=1C(C(C=C(C1)C(C)(C)C)=O)=O | C14H20O2
reactant | acetic acid | 0.70 mmol, 40 μL | C(C)(=O)O | C2H4O2
reactant | triethyltrifloromethylsilane | 0.70 mmol, 129 mg | C(C)[Si](C(F)(F)F)(CC)CC | C7H15F3Si
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
product | 4,6-di-tert-butyl-2-hydroxy-2-trifluoromethyl-3,5-cyclohexadiene-one | 27 mg, 16% yield | C(C)(C)(C)C1=CC(C(C(=C1)C(C)(C)C)=O)(C(F)(F)F)O | C15H21F3O2
